US07919504B2
(2S,3S)-Methyl 2-(tert-butoxycarbonylamino)-3-methoxy-3-(4-(trifluoromethyl)phenyl)propanoate:
To a solution of (2S,3S)-methyl 2-amino-3-methoxy-3-(4-(trifluoromethyl)phenyl)propanoate (0.94 g, 3.39 mmol) in THF (10 mL) was added di-tert-butyl dicarbonate (0.89 g, 4.07 mmol) and sodium bicarbonate (0.56 g, 6.78 mmol) at room temperature. The mixture was stirred over the weekend and filtered through a funnel. The filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography (0-14% EtOAc-hexane) to provide the product as a white solid (1.1 g, 83%). LCMS (API-ES) m/z: 278, 322 (M+H+).

reactant | (2S,3S)-methyl 2-amino-3-methoxy-3-(4-(trifluoromethyl)phenyl)propanoate | 3.39 mmol, 0.94 g | N[C@H](C(=O)OC)[C@H](C1=CC=C(C=C1)C(F)(F)F)OC | C12H14F3NO3
reactant | di-tert-butyl dicarbonate | 4.07 mmol, 0.89 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 6.78 mmol, 0.56 g | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,3S)-Methyl 2-(tert-butoxycarbonylamino)-3-methoxy-3-(4-(trifluoromethyl)phenyl)propanoate | 1.1 g, 83% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@H](C1=CC=C(C=C1)C(F)(F)F)OC | C17H22F3NO5
